US04408057
In the manner of Example 1, step H, hydrolysis of 13.0 g (0.054 mole) of 4-(1-pyrrolyl)-1-indanyl acetate with 4.3 g of potassium hydroxide in 77 mL of water and 154 mL of ethanol gave 2.9 g of 4-(1-pyrrolyl)-1-indanol, m.p. 80°-81° C.

reactant | 4-(1-pyrrolyl)-1-indanyl acetate | 0.054 mole, 13.0 g | C(C)(=O)OC1CCC2=C(C=CC=C12)N1C=CC=C1 | C15H15NO2
reactant | potassium hydroxide | 4.3 g | [OH-].[K+]
solvent | water | 77 mL | O | H2O
solvent | ethanol | 154 mL | C(C)O | C2H6O
product | 4-(1-pyrrolyl)-1-indanol | 2.9 g | N1(C=CC=C1)C1=C2CCC(C2=CC=C1)O | C13H13NO
